US09024027B2
A mixture of 2-(5-(methylsulfonamido)-2,3-dioxoindolin-1-yl)acetic acid (141 mg, 0.473 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (166 mg, 0.394 mmol), EDC (227 mg, 1.182 mmol) and DMAP (24.06 mg, 0.197 mmol) in DCM (25 ml) was stirred at room temperature overnight. The solvent was evaporated, DMF (10 ml) was added, and the resulting solution was stirred at 80° C. for 6 hours. DMAP (48.1 mg, 0.394 mmol) was added, and stirring at 80° C. was continued for 2 days. The solvent was evaporated, DCM was added, and the mixture was washed with NaHCO3 5% and 1N HCl; the organic layer was dried over Na2SO4, filtered and evaporated affording a crude that was purified by flash chromatography on silica gel (DCM:Ethyl acetate from 50:50 to 30:70; then 100% DCM and then DCM:MeOH from 99:1 to 97:3). The product was further purified by Preparative HPLC (Method 3) affording (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-(2-(5-(methylsulfonamido)-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide (0.012 g, 0.017 mmol, 4% yield). MS/ESI+ 700.16 [MH]+; [αD]=+63.50, c=0.12 in DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 9.75 (br. s., 1H), 8.43 (s, 2H), 7.45 (dd, 1H), 7.41 (d, 1H), 7.18 (d, 1H), 7.07 (d, 1H), 7.05 (d, 1H), 6.95 (dd, 1H), 7.07 (t, 1H), 6.03 (dd, 1H), 4.64 (d, 1H), 4.56 (d, 1H), 3.91 (d, 2H), 3.40 (dd, 1H), 3.22 (dd, 1H), 3.02 (s, 3H), 1.12-1.31 (m, 1H), 0.54-0.63 (m, 2H), 0.31-0.44 (m, 2H).

reactant | 2-(5-(methylsulfonamido)-2,3-dioxoindolin-1-yl)acetic acid | 0.473 mmol, 141 mg | CS(=O)(=O)NC=1C=C2C(C(N(C2=CC1)CC(=O)O)=O)=O | C11H10N2O6S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.394 mmol, 166 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.182 mmol, 227 mg
catalyst | DMAP | 0.197 mmol, 24.06 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.394 mmol, 48.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-(2-(5-(methylsulfonamido)-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.017 mmol, 0.012 g, 4% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C(C2=CC(=CC=C12)NS(=O)(=O)C)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H25Cl2F2N3O9S
